data/oMe_Silver.jsonl
{"reaction_id": "NG-010_1-c2ccc(OC)cc2_2-c2ccc([N+](=O)[O-])cc2_3-C","name": "Bamford-Stevens Reaction","level": "medium","reactants_smiles": ["C(=NNS(=O)(=O)c1ccc(C)cc1)(C(c2ccc(OC)cc2)(c2ccc([N+](=O)[O-])cc2))(C)"],"products_smiles": ["C(=C(c2ccc(OC)cc2)(c2ccc([N+](=O)[O-])cc2))C(C)"],"conditions": "Base","mechanism": [{"step": 1,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C(=N[N-]S(=O)(=O)c1ccc(C)cc1)(C(c2ccc(OC)cc2)(c2ccc([N+](=O)[O-])cc2))(C)","rationale": "Base abstracts a proton alpha to the hydrazone nitrogen, stabilized by resonance into the adjacent imine, making the nitrogen anion more nucleophilic and primed for tosylate elimination."},{"step": 2,"type": "elimination","subtype": "leaving_group_elimination","intermediate_smiles": "C(=[N+]=[N-])(C(c2ccc(OC)cc2)(c2ccc([N+](=O)[O-])cc2))(C)","rationale": "The negatively charged nitrogen facilitates expulsion of the tosylate, a good leaving group due to resonance stabilization by the sulfonyl group, forming a diazo species."},{"step": 3,"type": "elimination","subtype": "leaving_group_elimination","intermediate_smiles": "[C](C(c2ccc(OC)cc2)(c2ccc([N+](=O)[O-])cc2))(C)","rationale": "The diazo compound thermally or base-promotedly loses N₂ gas, a highly stable leaving group, generating an electron-deficient carbene intermediate."},{"step": 4,"type": "rearrangement","subtype": "1,2-shift","intermediate_smiles": "C(=C(c2ccc(OC)cc2)(c2ccc([N+](=O)[O-])cc2))C(C)","rationale": "The carbene undergoes a 1,2-shift of c2ccc(OC)cc2 or c2ccc([N+](=O)[O-])cc2 to stabilize the electron-deficient center, forming the more thermodynamically stable alkene via rearrangement."}],"description": "Under basic conditions, the Bamford–Stevens reaction proceeds via deprotonation of the tosylhydrazone, generating an anion that eliminates the tosylate. This forms a diazo intermediate, which loses nitrogen to yield a carbene. A 1,2-shift then rearranges the carbene to the alkene product."}
{"reaction_id": "NR-312_10-[N+](=O)[O-]_1-C_2-CC_3-C(C)(C)C_4-C(F)(F)F_5-Cl_6-C=C_7-C(=O)OC_8-OC(F)(F)F_9-CC","level": "easy","name": "Ullmann Condensation","reactants_smiles": ["c1(C)c(CC)c(C(C)(C)C)c(C(F)(F)F)c(Cl)c1O","c1(C=C)c(C(=O)OC)c(OC(F)(F)F)c(CC)c([N+](=O)[O-])c1I"],"products_smiles": ["c1(C)c(CC)c(C(C)(C)C)c(C(F)(F)F)c(Cl)c1Oc2c(C=C)c(C(=O)OC)c(OC(F)(F)F)c(CC)c2([N+](=O)[O-])"],"conditions": "CuI, Base","mechanism_step_nums": 4,"mechanism": [{"step": 1,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "c1(C)c(CC)c(C(C)(C)C)c(C(F)(F)F)c(Cl)c1[O-]","step_weight": 0,"rationale": "Base deprotonates phenol because the phenolic proton is acidic and the resulting phenoxide is resonance-stabilized, increasing nucleophilicity for subsequent copper-mediated coupling."},{"step": 2,"type": "addition","subtype": "oxidative_addition","intermediate_smiles": "c1(C=C)c(C(=O)OC)c(OC(F)(F)F)c(CC)c([N+](=O)[O-])c1[Cu](I)I","step_weight": 0,"rationale": "Cu(I) undergoes oxidative addition into the aryl–iodine bond due to the good leaving group ability of iodide and the polarizable C–I bond, forming a reactive aryl–Cu(III) species."},{"step": 3,"type": "substitution","subtype": "nucleophilic_substitution","intermediate_smiles": "c2(C=C)c(C(=O)OC)c(OC(F)(F)F)c(CC)c([N+](=O)[O-])c2[Cu](I)Oc1c(C)c(CC)c(C(C)(C)C)c(C(F)(F)F)c1(Cl)","step_weight": 0,"rationale": "The phenoxide oxygen attacks the aryl–Cu complex via nucleophilic substitution, favored by the strong Cu–O bond formation and the activated aryl group bound to copper."},{"step": 4,"type": "elimination","subtype": "reductive_elimination","intermediate_smiles": "c1(C)c(CC)c(C(C)(C)C)c(C(F)(F)F)c(Cl)c1Oc2c(C=C)c(C(=O)OC)c(OC(F)(F)F)c(CC)c2([N+](=O)[O-])","step_weight": 0,"rationale": "Reductive elimination from Cu(III) forms the C–O bond of the biaryl ether, driven by the thermodynamic stability of the product and regeneration of the Cu(I) catalyst."}],"description": "In the Ullmann condensation, the phenol is first deprotonated by base to form a nucleophilic phenoxide. Copper(I) catalyzes the coupling by oxidative addition to the aryl iodide, enabling nucleophilic attack and subsequent reductive elimination to form the biaryl ether linkage."}
